US07405300B2
N-[3-(2-chloro-3-formyl-indol-1-yl)phenyl]-acetamide is reacted with piperazine as described in Step 2 of Example 29 and subsequently treated with hydrochloric acid as described in Example 44 to afford N-{3-[3-Formyl-2-(piperazin-1-yl)-indol-1-yl]phenyl}-acetamide hydrochloride (37% yield) as a cream solid. ESI/MS 363 (M+H); RT 2.2 min.

reactant | N-[3-(2-chloro-3-formyl-indol-1-yl)phenyl]-acetamide | ClC=1N(C2=CC=CC=C2C1C=O)C=1C=C(C=CC1)NC(C)=O | C17H13ClN2O2
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | Cl | ClH
product | N-{3-[3-Formyl-2-(piperazin-1-yl)-indol-1-yl]phenyl}-acetamide hydrochloride | 37% yield | Cl.C(=O)C1=C(N(C2=CC=CC=C12)C=1C=C(C=CC1)NC(C)=O)N1CCNCC1 | InChI=1S/C21H22N4O2.ClH/c1-15(27)23-16-5-4-6-17(13-16)25-20-8-3-2-7-18(20)19(14-26)21(25)24-11-9-22-10-12-24;/h2-8,13-14,22H,9-12H2,1H3,(H,23,27);1H
